Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Keflex / Demerol / Codeine / Tape ___ / Morphine
 
Attending: ___
 
Chief Complaint:
Abdominal pain-needs J tube placement
 
Major Surgical or Invasive Procedure:
___ tube placement
G-J tube placement

 
History of Present Illness:
___ MEDICINE ATTENDING ADMISSION NOTE .

 

Date: ___
 
Time: ___

_
________________________________________________________________

PCP: 
Name: ___ MD 
Address: ___ 
Phone: ___ 
Fax: ___ 
.
Name: ___ MD, MS 
Location: ___ OF GASTROENTEROLOGY/___ 
Address: ___, ___ 
Phone: ___ 
Fax: ___ 
Email: ___ 
.

. 

_
________________________________________________________________

 

HPI: 
___ year old female with a hstory of severe chronic pancreatitis 
with       associated abdominal pain and nausea. She had been 
recently on TPN  but developed a line infection and a flare of 
her pancreatitis. Had  recently been sent home on IV antibiotics 
tolerating a po diet. She has now completed the antibiotics but 
still unable to eat- unable to eat even sips of ensure. She 
reported pain, bloating and nausea when drinking ensure.  She 
reports the pain as being similar to the pain she always has 
when she has pancreatitis. ___ epigastric radiating as band 
around her abdomen. She was admitted for placement of a surgical 
J-tube.  

In ER: (Triage Vitals: 6 97.9 74 135/77 16 100 )
 Meds Given:  
Fluids given: 
Radiology Studies: CXR - PICCL in place per ED resident. 
consults called: surgery

.

PAIN SCALE: ___ pain even though patient was sound asleep when 
I entered the room and had to be awoken.

________________________________________________________________
REVIEW OF SYSTEMS:
CONSTITUTIONAL:        [] All Normal
[ ] Fever  [ ] Chills   [ ] Sweats  [ ] Fatigue   [ ] Malaise   
[ ]Anorexia  [ ]Night sweats
[+] __1___ lb.    weight  loss
HEENT:          [X] All Normal
[ ] Blurred vision   [ ] Blindness  [ ] Photophobia
[ ] Decreased acuity [ ] Dry mouth  [ ] Bleeding gums
[ ] Oral ulcers  [ ] Sore throat    [ ] Epistaxis  [ ] Tinnitus
[ ] Decreased hearing    [ ]Tinnitus [ ] Other:

RESPIRATORY:    [X] All Normal
[ ] SOB     [ ] DOE    [ ] Can't walk 2 flights     [ ] Cough
[ ] Wheeze  [ ] Purulent sputum    [ ] Hemoptysis   [ ]Pleuritic 
pain 
[ ] Other:

CARDIAC:        [X]  All Normal
[ ] Angina    [ ] Palpitations   [ ] Edema   [ ] PND
[ ] Orthopnea    [ ] Chest Pain [ ] Other:

GI:             [] All Normal
[ ] Blood in stool     [ ] Hematemesis     [ ] Odynophagia
[ ] Dysphagia:   [ ] Solids    [ ] Liquids
[ ] Anorexia    [+] Nausea  [] Vomiting   [ ] Reflux
[- ] Diarrhea    [-] Constipation  [+]  Abd pain  [ ] Other:

GU:             [X] All Normal
[ ] Dysuria      [ ] Frequency    [ ] Hematuria  []Discharge 
[]Menorrhagia  

SKIN:           [X] All Normal
[ ] Rash        [ ] Pruritus

MS:             [X] All Normal
[ ] Joint pain    [ ] Jt swelling   [ ] Back pain  [ ] Bony pain

NEURO:          [X] All Normal
[ ] Headache    [ ] Visual changes   [ ] Sensory change [ 
]Confusion [ ]Numbness of extremities
[ ] Seizures   [ ] Weakness [ ] Dizziness/Lightheaded [ ]Vertigo 
[ ] Headache

ENDOCRINE:     [X] All Normal
[ ] Skin changes  [ ] Hair changes   [ ] Temp subjectivity

HEME/LYMPH:    [X] All Normal
[ ] Easy bruising   [ ] Easy bleeding    [ ] Adenopathy

PSYCH:         [] All Normal
[ ?] some depression [-]Suicidal Ideation  [ ] Other:  

[X]all other systems negative except as noted above 
________________________________________________________________

 
Past Medical History:
1) Recurrent pancreatitis: Started after partial pancreatectomy  

in ___. Then not recurrent until ___. Was hospitalized in  
___ for pancreatitis, underwent an ERCP with sphincterotomy and 
 
stent placement in panc duct. Further episodes in ___  
with same ERCP again and stent extension. In ___, another bout  

of acute pancreatitis, but ERCP this time showed no duct  
stenosis. ?in the past thought to be due to autoimmune, but did  

not improve with tx. Last admit, markers not suggestive.  
2) Hemolytic anemia: reaction to Keflex, treated with  
splenectomy in ___.  
3) s/p ccy in ___  
4) s/p appy in ___  
5) Asthma: mild intermittent, uses no meds at baseline  
6) hypothyroidism  
7) s/p tubal ligation  
8) Depression  
9) Right UE DVT in the setting of central line, on coumadin  
since ___, no longer on coumadin.
 
Social History:
___
Family History:
Father- lung cancer  
sister- ___  
Mother- osteoporosis, HTN, hypothyroidism, T2DM, chronic pain  

 
Physical Exam:
PHYSICAL EXAM: 

VITAL SIGNS: 

GLUCOSE: 

PAIN SCORE

VS; T = 98.7 P = 80 BP = 112/69 RR = 16 O2Sat 99% on RA 
GENERAL:  Well appearing female who appears to be her stated 
age. 
Nourishment: good  
Grooming: Well groomed  
Mentation: Alert, speaks in full sentences  
Eyes:NC/AT, PERRL, EOMI without nystagmus, no scleral icterus 
noted  
Ears/Nose/Mouth/Throat: MMM, no lesions noted in OP  
Neck: supple
Respiratory: Lungs CTA bilaterally without R/R/W  
Cardiovascular: RRR, nl. S1S2, soft ___ SEM at LUSB 
Gastrointestinal: soft, normoactive bowel sounds, epigastric 
tenderness, 
Genitourinary:  deferred
Skin: no rashes or lesions noted. PICCL insertion site C/D/I 
without erythema. Erythema present at the site of the tape. 
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses b/l.  
Neurologic:  
-mental status: Alert, oriented x 3. Able to relate history 
without difficulty.  
-cranial nerves: II-XII intact  
-motor: normal bulk, strength and tone throughout. 
Psychiatric:  WNL

ACCESS: [X]PIV []CVL site ______

FOLEY: []present [x]none 

TRACH: []present [X]none  

PEG:[]present [X]none  [ ]site C/D/I 

COLOSTOMY: :[]present [X]none  [ ]site C/D/I 

 
Pertinent Results:
LABS: none drawn on admission
.

EKG: none on admission

OTHER DIAGNOSTICS: EGD/EUS ___
EUS
findings: EUS was performed using a linear echoendoscope at 7.5 
MHz frequency: The head and uncinate pancreas were imaged from 
the duodenal bulb and the second / third duodenum. The body and 
tail [partially] were imaged from the gastric body and fundus.  

Pancreas parenchyma: The entire pancreas showed the following 
parenchymal changes : lobularity, hyperechoic foci, and 
hyperechoic strands. The pancreas was small in volume [atrophic] 
throughout especially at the body of the pancreas. The head of 
the pancreas could not be fully examined due to patient's 
anatomy. 

Pancreas duct:The pancreas duct measured 4 mm in the head and 2 
mm in the body of the pancreas. The walls of the duct were 
hyperchoic. The duct was regular. Pancreatic parenchymal and 
duct changes taken together are suggestive of moderate severity 
chronic pancreatitis.  

The ampulla was examined. This showed changes c/w prior 
sphincterotomy. No other abnormalities were noted.  

Bile duct: moderate amount of air bubbles were noted in the bile 
duct, obscuring view. The duct in the porta-hepatis was normal. 
 
Impression: Pancreas parenchyma and duct showed changes c/w 
chronic pancreatitis. Ampulla showed post sphincterotomy 
changes, but was otherwise normal.  Limited images of bile duct 
and pancreatic duct were normal.
 
Recommendations: Follow-up with Dr. ___ in pancreas clinic.
Return patient to hospital ward. 

IMPRESSION: 
1. Successful placement of a ___ ___ tube via the 
greater 
curvature of the stomach and into the proximal jejunum. Of note, 
duodenum and proximal jejunum are all to the right of the 
midline due to this patient's partial pancreatectomy. 
2. Due to excessive air received by the patient for gastric 
insufflation over the last two days as well as receiving 
glucagon, which causes an ileus, an ileus of at least 24 hours, 
should be expected. Hence, tube usage should not be carried out 
for at least 24 hours after which feeding should be advanced 
slowly as tolerated. 
3. Two T-fasteners in place, these should be cut at the skin in 
approximately 14 days. 

 COMPLETE BLOOD COUNT WBC RBC Hgb Hct MCV MCH MCHC RDW Plt Ct 
___ 04:36    12.2* 3.54* 10.3* 30.8* 87 29.1 33.4 13.2 
415 
Source: Line-PICC 
DIFFERENTIAL Neuts Bands Lymphs Monos Eos Baso Atyps Metas 
Myelos 
___ 04:47    50 0 30 12* 6* 1 1* 0 0 

 
Brief Hospital Course:
The patient is a ___ year old woman with chronic pancreatitis s/p 
resection for pancreatic cyst who presented with inability to 
tolerate po intake. She had a recent PICC line infection placed 
for home TPN. Line was removed, a new one was placed and she 
finnished home IV antibiotics treatment. She was seen by Surgery 
in ED during this presentation who recommended a trial of 
nasojejunal (NJ) feeds to see if she tolerates it prior to 
planning either ___ guided ___ tube or open jejunostomy tube. ___ 
performed NJ tube insertion and she was started on NJ tube 
feeding at a rate of 15 ml per hour which was advanced to 45 ml 
per hour. She tolerated the NJ tube feeding very well without 
any complications. Case manager was unable to find ___ for her 
so she remained in the hospital until a G-J tube could be 
placed.  On the third attempt, ___ was successful on ___, and 
Tube feeds were restarted on ___.  Goal rate was advanced to 
cycling goal rate of 90ml/hr x 12hr overnight.  She tolerated 
this well without any residuals.  

She will need sutures removed and was instructed to follow up 
with her PCP ___ 2 weeks for this. She has followup with her PCP 
schedule per the discharge sheet.

She has followup with Dr. ___ in ___.

She will resume her outpatient medications.
 
Medications on Admission:
Fentanyl patch 100 mcg
Dilaudid 4mg q 4 hours
Senna
Colace
Synthyroid ___ mcg
Celexa 60 mg 
 
Discharge Medications:
1. fentanyl 100 mcg/hr Patch 72 hr Sig: One (1) Patch 72 hr 
Transdermal Q72H (every 72 hours).  
2. citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
3. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
4. levothyroxine 75 mcg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily): take greater than ONE hour BEFORE starting night time 
tube feeds (i.e in the afternoon).  
5. clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for anxiety.
Disp:*21 Tablet(s)* Refills:*0*
6. hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Chronic pancreatitis 
Chronic abdominal Pain
Moderate malnutrition
2 PICC line infections in past.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for surgical or interventional radiology (___) 
guided placement of a tube placement in the jejunum (small 
bowel) but you ended up with a tube through your nose for entral 
(gastrointestinal) feeding trial before ___ gastric-jejunal (G-J) 
tube placement. Tube feedings were re started on ___ 
through this new G-J tube without complications and you 
tolerated your goal rate of 90mg/hr.  You will administer this 
for 12hr each night for you nutritional needs. You received tube 
feed pump education and feel competent to operate this. You were 
given contact information for Tube feed pump company nurse if 
you have questions.

You will need your sutures removed in 2 weeks time when you see 
your PCP. 

Please continue your regular oupatient regimen.  Any narcotic 
medication will be prescribed/renewed by your PCP.
 
Followup Instructions:
___